US08314103B2
5-Aminopyridine-2-carboxamidine
Dry HCl gas (generated by adding concentrated HCl dropwise in concentrated sulphuric acid), was passed through a solution of 5-amino-2-cyanopyridine (2.5 g, 20.9 mmol) in ethanol (50 mL) till pH of the reaction mixture was 2. The reaction mixture was stirred for 30 minutes, followed by addition of ethanolic ammonia solution till the pH was alkaline and was stirred for 24 hours at room temperature. The reaction mixture was filtered and the residue was washed with ethanol (3×100 mL). The filtrate was combined and ethanol was removed under reduced pressure. The crude product obtained was purified by column chromatography (silica gel, 13% methanol in chloroform as an eluent) to obtain the title compound.

reactant | HCl | Cl | ClH
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 5-amino-2-cyanopyridine | 20.9 mmol, 2.5 g | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | ammonia | N | H3N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-Aminopyridine-2-carboxamidine | NC=1C=CC(=NC1)C(=N)N | C6H8N4
